US07473786B1
1-(2-(2-methoxyphenyl)-1H-indol-1-yl)ethanone (entry 6, Table 2):
The general procedure was used to convert 1-iodo-2-methoxybenzene and N-(2-ethynylphenyl)acetamide to the title product. Purification by flash chromatography gave the analytically pure product as a slightly yellow solid, 83% yield. 1H NMR (300 MHz, CDCl3) δ 8.40-8.36 (m, 1H), 7.57-7.53 (m, 1H), 7.45-7.41 (m, 2H), 7.36-7.22 (m, 2H), 7.09-7.04 (m, 1H) 6.95-6.92 (m, 1H), 6.54 (s, 1H), 3.76 (s, 3H), 2.10 (s, 3H). 13C NMR (75 MHz, CDCl3) δ 171.26, 156.93, 137.29, 136.39, 130.66, 130.55, 129.06, 124.76, 123.43, 123.16, 121.04, 120.21, 116.07, 111.30, 110.65, 55.38, 25.80.

reactant | 1-iodo-2-methoxybenzene | IC1=C(C=CC=C1)OC | C7H7IO
reactant | N-(2-ethynylphenyl)acetamide | C(#C)C1=C(C=CC=C1)NC(C)=O | C10H9NO
product | 1-(2-(2-methoxyphenyl)-1H-indol-1-yl)ethanone | 83% yield | COC1=C(C=CC=C1)C=1N(C2=CC=CC=C2C1)C(C)=O | C17H15NO2
